US07173135B2
ii) Preparation of 3-cyano-7-fluoro-4-hydroxy-5-(tetrahydro-2H-pyran-4-yloxy)quinoline
A mixture of 3-cyano-5,7-difluoro-4-hydroxyquinoline (2.06 g), tetrahydro-2H-pyran-4-ol (1.02 g) and potassium tert-butoxide (1.0M solution in tetrahydrofuran; 30.0 ml) in anhydrous tetrahydrofuran (100 ml) was stirred and heated under nitrogen at 60° C. for 1.5 hours. Acetic acid was added until pH6 was reached and then the solution was evaporated to dryness. The residue was dissolved in aqueous sodium hydroxide solution (2.0M) and the resulting solution was filtered through a GF/A glass fibre pad. The filtrate was acidified to pH5 with acetic acid and the resulting oily precipitate allowed to stand 3 days when it had become solid. The solid was collected and washed with water then air-dried. (1.8 g, 62%); NMR spectrum: (DMSOd6) 1.67 (m, 2H), 1.92 (m, 2H), 3.50 (m, 2H), 3.91 (m, 2H), 4.76 (m, 1H), 6.81 (m, 1H), 6.94 (m, 1H), 8.52 (s, 1H); Mass spectrum: M+H+ 289.

reactant | 3-cyano-5,7-difluoro-4-hydroxyquinoline | 2.06 g | C(#N)C=1C=NC2=CC(=CC(=C2C1O)F)F | C10H4F2N2O
reactant | tetrahydro-2H-pyran-4-ol | 1.02 g | O1CCC(CC1)O | C5H10O2
reactant | potassium tert-butoxide | 1.0M, 30.0 ml | CC(C)([O-])C.[K+]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-cyano-7-fluoro-4-hydroxy-5-(tetrahydro-2H-pyran-4-yloxy)quinoline | C(#N)C=1C=NC2=CC(=CC(=C2C1O)OC1CCOCC1)F | C15H13FN2O3
